US05234946
Two grams of furfuryl alcohol was dissolved in 20 ml of anhydrous ethyl ether, and 3 ml of an anhydrous ethyl ether solution containing 2 g of phosphorus tribromide was added. The mixture was stirred for 30 minutes under ice cooling. The reaction mixture was washed with a 30% aqueous solution of sodium hydroxide, and dried over granular sodium hydroxide. The solution was then added to a previously prepared solution of 3-hydroxybenzaldehyde sodium salt (obtained by dissolving 2.44 g of 3-hydroxybenzaldehyde and 0.8 g of 60% oily sodium hydride in a mixture of 5 ml of anhydrous dimethylformamide and 10 ml of anhydrous ethyl ether), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture were added isopropyl ether and water. The organic layer was separated, washed with a 10% aqueous solution of sodium hydroxide, and then dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and the solvent was evaporated. The residue was purified by silica gel column chromatography (Wakogel C-200, 100 g; eluting solvent: hexane/ethyl acetate=3/1) to give 3-furfuryloxybenzaldehyde as a pale yellow oil.

reactant | furfuryl alcohol | Two grams | C(C1=CC=CO1)O | C5H6O2
reactant | phosphorus tribromide | 2 g | P(Br)(Br)Br | Br3P
reactant | 3-hydroxybenzaldehyde | 2.44 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 3-furfuryloxybenzaldehyde | C(C1=CC=CO1)OC=1C=C(C=O)C=CC1 | C12H10O3
